US07956222B2
5-Bromo-1,2-diethoxy-3-fluorobenzene
To a solution of 5-bromo-3-fluorobenzene-1,2-diol (37.5 g, 0.18 mol) in N,N-dimethylformamide (DMF) (375 mL), ethyl iodide (58.0 mL, 0.72 mol) and potassium carbonate (62.6 g, 0.45 mol) were added sequentially under a nitrogen atmosphere, the mixture was stirred at room temperature for 30 minutes, and then stirred at 50° C. for 16.5 hours. The reaction mixture was cooled to room temperature and water (1.0 L) was added thereto. The mixture was extracted once with ethyl acetate (1.0 L) and twice with ethyl acetate (500 mL). Water (1.0 L) was added to the organic layer and the mixture was filtered through celite. After separating the filtrate, the organic layer was washed sequentially with water (1.0 L), twice with a 5 N aqueous solution of sodium hydroxide (200 mL), and saturated saline. The organic layer was dried over anhydrous magnesium sulfate and the solvent was distilled off under reduced pressure. The resultant residue was purified by silica gel column chromatography (hexane, ethyl acetate) to give 41.7 g of the title compound (yield: 87%).

reactant | 5-bromo-3-fluorobenzene-1,2-diol | 0.18 mol, 37.5 g | BrC1=CC(=C(C(=C1)O)O)F | C6H4BrFO2
reactant | ethyl iodide | 0.72 mol, 58.0 mL | C(C)I | C2H5I
reactant | potassium carbonate | 0.45 mol, 62.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 1.0 L | O | H2O
reactant | N,N-dimethylformamide | 375 mL | CN(C=O)C | C3H7NO
product | 5-Bromo-1,2-diethoxy-3-fluorobenzene | 41.7 g, yield: 87% | BrC=1C=C(C(=C(C1)OCC)OCC)F | C10H12BrFO2
